US06713474B2
Tetrahydro-2H-4-pyranyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate 5-(4-Amino-3-methoxyphenyl)-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (57 mg, 0.168 mmol) and 4-nitrophenyl tetrahydro-2H-4-pyranyl carbonate (90 mg, 0.336 mmol) was mixed in pyridine (1 mL). After stirring for 5 hours, another 90 mg of 4-nitrophenyl tetrahydro-2H-4-pyranyl carbonate was added and the reaction mixture was stirred for 2 days. The reaction mixture was heated at 70° C. for 2 hours. The solvent was removed and the residue was purified by preparative thin layer chromatography to give tetrahydro-2H-4-pyranyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (30 mg, 0.064 mmol). 1H NMR (CDCl3-d) δ 1.78 (m, 4H), 2.08 (m, 4H), 3.60 (m, 4H), 3.94 (s, 3H), 3.97 (m, 2H), 4.15 (m, 2H), 4.98 (m, 2H), 5.23 (s, 2H), 6.78 (s, 1H), 7.04 (s, 1H), 7.07 (d, J=8.3 Hz, 1H), 8.16 (bd, J=7.90 Hz, 1H), 8.33 (s, 1H). LC/MS MH+=468.

reactant | Tetrahydro-2H-4-pyranyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate 5-(4-Amino-3-methoxyphenyl)-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.168 mmol, 57 mg | NC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCOCC2)OC.NC=2C1=C(N=CN2)N(C=C1C1=CC(=C(C=C1)NC(OC1CCOCC1)=O)OC)C1CCOCC1
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | tetrahydro-2H-4-pyranyl N-[4-(4-amino-7-tetrahydro-2H-4-pyranyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 0.064 mmol, 30 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC2CCOCC2)=O)OC)C2CCOCC2 | C24H29N5O5
